US07381719B2
Add cesium carbonate (2.15 g, 6.60 mmol) to a stirred solution of [2-(4-hydroxy-phenyl)-2-methyl-propyl]-carbamic acid tert-butyl ester (0.86 g, 3.24 mmol) in dimethylformamide (20 mL). Stir for 30 minutes under nitrogen at room temperature. Then add 6-chloronicotinamide (0.51 g, 3.26 mmol) and heat to 100° C. under nitrogen for 6 h. Cool the reaction to room temperature, pour into brine (100 mL), extract with ethyl acetate (3×75 mL), dry the ethyl acetate extracts over magnesium sulfate, filter, and concentrate on a rotary evaporator to give the crude product. The crude product is purified by flash chromatography on silica gel eluting with 0.7% concentrated ammonium hydroxide/7% ethanol/chloroform to yield 0.5043 g (40%) of {2-[4-(5-carbamoyl-pyridin-2-yloxy)-phenyl]-2-methyl-propyl}-carbamic acid tert-butyl ester: mass spectrum (ion spray): m/z=386.2 (M+1); 1H NMR (CDCl3): 8.64 (d, 1H), 8.20 (dd, 1H), 7.40 (d, 2H), 7.12 (d, 2H), 6.98 (d, 1H), 4.38 (br s, 1H), 3.34 (d, 2H), 1.75 (br s, 2H), 1.41 (s, 9H), 1.34 (s, 6H).

reactant | cesium carbonate | 6.60 mmol, 2.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | [2-(4-hydroxy-phenyl)-2-methyl-propyl]-carbamic acid tert-butyl ester | 3.24 mmol, 0.86 g | C(C)(C)(C)OC(NCC(C)(C)C1=CC=C(C=C1)O)=O | C15H23NO3
reactant | 6-chloronicotinamide | 3.26 mmol, 0.51 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | brine | 100 mL | [Cl-].[Na+].O
product | {2-[4-(5-carbamoyl-pyridin-2-yloxy)-phenyl]-2-methyl-propyl}-carbamic acid tert-butyl ester | 0.5043 g, 40% | C(C)(C)(C)OC(NCC(C)(C)C1=CC=C(C=C1)OC1=NC=C(C=C1)C(N)=O)=O | C21H27N3O4
